US05576324
2-Azidomethyl-5-bromo-9,9-dimethyl-2,3,6,7,8,9-hexahydrofuro[2,3-f]quinoline-7-one
5-Bromo-2-bromomethyl-9,9-dimethyl-2,3,6,7,8,9-hexahydrofuro[2,3-f]quinoline-7-one (1.25 g, 3.21 mmol) was dissolved in dimethylformamide (50 ml). To the resultant solution, sodium azide (1.25 g, 19.3 mmol) was added, and the mixture was stirred at room temperature for 17 hours. The reaction mixture was condensed under reduced pressure, and the residue was extracted along with chloroform and water. The organic phase was dried, and condensed under reduced pressure. Recrystallization from chloroform-n-hexane-ether yielded 997 mg of the title compound as pale yellow needles (88.4%).

reactant | 5-Bromo-2-bromomethyl-9,9-dimethyl-2,3,6,7,8,9-hexahydrofuro[2,3-f]quinoline-7-one | 3.21 mmol, 1.25 g | BrC=1C=C2C(=C3C(CC(NC13)=O)(C)C)OC(C2)CBr | C14H15Br2NO2
reactant | sodium azide | 19.3 mmol, 1.25 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-Azidomethyl-5-bromo-9,9-dimethyl-2,3,6,7,8,9-hexahydrofuro[2,3-f]quinoline-7-one | 997 mg, 88.4% | N(=[N+]=[N-])CC1CC=2C(=C3C(CC(NC3=C(C2)Br)=O)(C)C)O1 | C14H15BrN4O2
